US07511056B2
5-Bromo-1-phenyl-1H-pyrazolo[3,4-b]pyridine
Dissolve 1-phenyl-5-aminopyrazole (Tokyo Kasei Kogyo Co. LTD; 1.5 g, 9.4 mmol) and 2-bromomalonaldehyde (Aldrich; 1.42 g, 9.4 mmol) in glacial acetic acid (170 mL) and reflux under nitrogen for 5 h. Concentrate under reduced pressure and purify via chromatography (silica gel, dichloromethane) to obtain 740 mg (28%) of the title compound as an off-white solid. TOF MS ES+ exact mass calculated for C12H9N3Br (p+H): m/z=273.9980, Found. 273.9965.

reactant | 1-phenyl-5-aminopyrazole | 9.4 mmol, 1.5 g | C1(=CC=CC=C1)N1N=CC=C1N | C9H9N3
reactant | 2-bromomalonaldehyde | 9.4 mmol, 1.42 g | BrC(C=O)C=O | C3H3BrO2
solvent | acetic acid | 170 mL | C(C)(=O)O | C2H4O2
product | 5-Bromo-1-phenyl-1H-pyrazolo[3,4-b]pyridine | 740 mg, 28% | BrC=1C=C2C(=NC1)N(N=C2)C2=CC=CC=C2 | C12H8BrN3
